US07683079B2
Step C]: rac-4-tert-Butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester
A solution of rac-4-amino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester (6.47 g) and Boc2O (5.02 g) in 50 ml CH2Cl2 was stirred 24 h at RT, then diluted with AcOEt, washed with water and brine. The organic layers were dried over MgSO4, filtered, evaporated and chromatographied (silica gel, AcOEt/heptane, 1/1) to leave the title compound as a mixture of cis- and trans-diastereomers (4.50 g, 53%).

reactant | rac-4-amino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester | 6.47 g | C(C)OC(=O)C1CN(CCC1N)C1=CC(=C(C=C1)OC)OC | C16H24N2O4
reactant | Boc2O | 5.02 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | rac-4-tert-Butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1NC(=O)OC(C)(C)C)C1=CC(=C(C=C1)OC)OC | C21H32N2O6
